US04864022
4-6) 6-(2-Dimethylaminoethoxy)imidazo[1,2-b]pyridazine
Sodium metal (0.25 g) and 6-chloroimidazo[1,2-b]pyridazine are added to 25 ml of 2-dimethylaminoethanol and the mixture is heated in a sealed tube for 3 hours at 130° C. After cooling, the solvent is evaporated and the residue is treated with water and extracted with methylene chloride. The organic layer is separated, washed with saturated sodium chloride solution and dried over MgSO4. Evaporation of the solvent gives the title compound as a viscous oil which solidified on standing. The yield is 2.5 g.

reactant | Sodium | 0.25 g | [Na] | Na
reactant | 6-chloroimidazo[1,2-b]pyridazine | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | 2-dimethylaminoethanol | 25 ml | CN(CCO)C | C4H11NO
product | 6-(2-Dimethylaminoethoxy)imidazo[1,2-b]pyridazine | CN(CCOC=1C=CC=2N(N1)C=CN2)C | C10H14N4O
